US07795436B2
cis-6-(2,4-Dichloro-phenyl)-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene
To a solution of cis-6-(2,4-dichloro-phenyl)-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid tert-butyl ester in CH2Cl2-(1.6 mL) was added trifluoroacetic acid (0.4 mL). The reaction mixture was stirred for 2 h at 20° C. then concentrated in vacuo. The residue was basified with NH4OH then extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered and concentrated in vacuo to give the title compound (20 mg, 0.06 mmol): MS (ES) 318.1 (M+H).

reactant | cis-6-(2,4-dichloro-phenyl)-1,2,4,4a,9,9a-hexahydro-3-aza-fluorene-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC[C@H]2CC3=CC=C(C=C3[C@H]2C1)C1=C(C=C(C=C1)Cl)Cl | C23H25Cl2NO2
reactant | trifluoroacetic acid | 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | cis-6-(2,4-Dichloro-phenyl)-2,3,4,4a,9,9a-hexahydro-1H-3-aza-fluorene | 0.06 mmol, 20 mg | ClC1=C(C=CC(=C1)Cl)C=1C=C2[C@H]3CNCC[C@H]3CC2=CC1 | C18H17Cl2N
